* C:\repos\snippets\CircuitAnalysis\VoltageMultiplier\LTSpice\DriverSnubberModelling1\DriverSnubberModelling1.asc
Lp N001 N003 5.0625E-5
V1 N001 0 36
V5 N004 0 PULSE(0 15 0 0 0 0.00003125 0.0000625 40)
M1 N003 N004 0 0 BSC060N10NS3
R1 N001 N002 127
C6 N001 N002 8.8108E-5
D6 N003 N002 D
.model D D
.lib C:\Users\USER1\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USER1\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 0.000625 0 6.25e-7
.plot V(C1)
.model M1 NMOS (Vto=2.5V)
.backanno
.end
