* C:\repos\snippets\CircuitAnalysis\VoltageMultiplier\LTSpice\RegenerativeSnubberModelling\RegenerativeSnubbe.asc
L_m N001 N002 0.000049 IC=22
C_s N002 N001 3.3E-6
V3 N001 0 36
R2 N002 0 1000000000
.tran 0 0.0000625 0 6.25e-8
.backanno
.end
